US06936713B2
A mixture of 204.2 g (2.00 mol) of acetic anhydride, 202.4 g (2.00 mol) of triethylamine and 169.6 g (1.00 mol) of 2-amino-6-chloropurine was stirred at 80° C. for 1 hour. The resulting suspension was cooled at 25° C., and thereafter diluted with 400 mL of toluene, and the diluted solution was filtered. The resulting crystals were suspended in 300 mL of isopropanol, and the suspension was filtered again. The resulting crystals were dried at 60° C. under reduced pressure, to give 211.8 g of white powder of 9-acetyl-2-amino-6-chloropurine (yield 100%).

reactant | acetic anhydride | 2.00 mol, 204.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 2.00 mol, 202.4 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-6-chloropurine | 1.00 mol, 169.6 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 9-acetyl-2-amino-6-chloropurine | yield 100% | C(C)(=O)N1C2=NC(=NC(=C2N=C1)Cl)N | C7H6ClN5O
